US05574097
N-(3-aminopropy)methacrylamide
Methacryloyl chloride (8.0 g, 0.078 mmol) in methylene chloride (10 ml) was added to a solution of 1,3-diaminopropane (35 ml) in methylene chloride (200 ml) at 0° C. After 15 min. stirring at 0° C. and 16 hours at 25° C. the reaction mixture was filtered and concentrated under reduced pressure. The residue was purified by flash chromatography (silicagel, chloroform/methanol (8:2)) to give (72%) of the title compound.

reactant | Methacryloyl chloride | 0.078 mmol, 8.0 g | C(C(=C)C)(=O)Cl | C4H5ClO
reactant | 1,3-diaminopropane | 35 ml | NCCCN | C3H10N2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | N-(3-aminopropy)methacrylamide | 72% | NCCCNC(C(=C)C)=O | C7H14N2O
